US07282501B2
Step C: 3-[4-Hydroxy-2-(hydroxyimino-methyl)-phenyl]-acrylic acid tert-butyl ester
A slurry of hydroxylamine hydrochloride (8.33 g, 0.12 mol), pyridine (9.49 g, 0.12 mol), and ethanol (100 mL) was stirred at ambient temperature for 30 min. 3-(2-Formyl-4-hydroxy-phenyl)-acrylic acid tert-butyl ester (14.90 g, 0.06 mol) was added followed by an ethanol (49 mL) rinse. The resulting brown solution was stirred at ambient temperature for 16 h and concentrated. The residue was suspended in water (150 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with saturated NaCl solution (2×100 mL), dried (Na2SO4), and filtered through a plug of silica gel to remove trace polar impurities. The filtrate was concentrated to give crude product (16.04 g). A 13.56 g sample of the crude material was crystallized from heptane (70 mL) and ethyl acetate (80 mL) to the title compound (7.41 g, 55%), mp 146-149° C. 1H NMR (CD3OD): δ 1.53 (s, 9H), 4.83 (s, 2H), 6.15-6.23 (d, 1H), 6.82-6.87 (dd, 1H), 7.10-7.12 (d, 1H), 7.52-7.55 (d, 1H), 7.98-8.03 (d, 1H), 8.37 (s, 1H). MS (ES+) m/z 286.1 ([M+Na]+). MS (ES−) m/z 262.2 ([M−H]−). Anal. Calculated for C14H17NO4: C: 63.8658; H: 6.5081; N: 5.3198. Found: C: 63.71; H: 6.38; N: 5.51.

reactant | hydroxylamine hydrochloride | 0.12 mol, 8.33 g | Cl.NO
reactant | pyridine | 0.12 mol, 9.49 g | N1=CC=CC=C1 | C5H5N
reactant | 3-(2-Formyl-4-hydroxy-phenyl)-acrylic acid tert-butyl ester | 0.06 mol, 14.90 g | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)O)C=O)=O | C14H16O4
solvent | ethanol | 49 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-[4-Hydroxy-2-(hydroxyimino-methyl)-phenyl]-acrylic acid tert-butyl ester | 16.04 g | C(C)(C)(C)OC(C=CC1=C(C=C(C=C1)O)C=NO)=O | C14H17NO4
